US05641889
(+)-(1R, 3S, 4R)-tert-Butyl N-[3-hydroxy-4-(hydroxymethyl]-1-cyclopentyl]carbamate
To a solution of (-)-(6aR, 8R, 9aS)-tert-butyl N-(hexahydro-2,2,4,4-tetraisopropylcyclopenta [f]-1,3,5,2,4-trioxadisilocin-8-yl)carbamate(74.32 g, 0.1569 mol, corresponding to the first portion of product in the above Example) in tetrahydrofuran (300 mL) was added tetraethyl ammonium fluoride hydrate (24.62 g, about 0.15 mol, Aldrich). The lumps of solid were broken up, the mixture was degassed (nitrogen), then refluxed for 45 minutes. After cooling to room temperature, the reaction mixture was applied to a column of silica gel (200 g) and eluted with tetrahydrofuran (3 L). The eluate was concentrated under vacuum to an amber oil, which was taken up in hexanes (150 mL). Crystallization began spontaneously, and was allowed to continue at -5° for two days. The crystals of crude title compound were collected by filtration, washed sparingly with 10% ethyl acetate-hexanes, and dried by suction to constant weight (25.08 g, 0.1084 mol). The procedure was repeated on the second portion of product from the above Example (73.82 g, 0.1558 mol), giving additional crude title compound (27.28 g, 0.1180 mol). The two portions of crude title compound were combined and recrystallized from boiling ethyl acetate (250 mL), giving white crystals of the title compound (46.67 g., 0.2018 mol, 53.7% of theoretical from the triol product of Example 5) having the following characteristics: m.p. 126-127.9° C.; 1H-NMR (DMSO-d6), δ: 6.75 (dr d, J=7.8 Hz, 1H, NH), 4.49 (t, J=4.5 Hz, CH2OH) overlapping 4.47 (d,J=4.3 Hz, CHOH) with total integration of 2H, 3.80-3.93 (m, 2H, CHN and CHOH), 3.34 (m, w1/2=20 Hz, CH2OH), 2.25 (dt, 1H, CHCH2), 1.79-1.63 (m, 2H, CH2CHOH), 1.63-1.50 (m, 1H, 1/2CH2), 1.38 (s, 9H, C(CH3)3), 1.11-0.96 (m, 1H, 1/2CH2); Cl-MS (CH4): 232(M+1).

reactant | (-)-(6aR, 8R, 9aS)-tert-butyl N-(hexahydro-2,2,4,4-tetraisopropylcyclopenta [f]-1,3,5,2,4-trioxadisilocin-8-yl)carbamate | C(C)(C)[Si]1(O[Si](OC[C@@H]2[C@@H](O1)C[C@@H](C2)NC(OC(C)(C)C)=O)(C(C)C)C(C)C)C(C)C | C23H47NO5Si2
reactant | tetraethyl ammonium fluoride hydrate | about 0.15 mol, 24.62 g | O.[F-].C(C)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (+)-(1R, 3S, 4R)-tert-Butyl N-[3-hydroxy-4-(hydroxymethyl]-1-cyclopentyl]carbamate | O[C@H]1C[C@@H](C[C@@H]1CO)NC(OC(C)(C)C)=O | C11H21NO4
